US06197798B1
To a solution 2-amino-5-nitro-indane hydrochloride (20.4 g, 95 mmol) in methylene chloride (500 mL) under nitrogen is added diisopropylethyl amine (14.7 g, 114 mmol). To this is added a solution of di-tert-butyldicarbonate (22.8 g, 105 mmol) in methylene chloride. The mixture is stirred for 16 h, washed with brine,1N hydrochloric acid, brine, and then dried over sodium sulfate. The solution is concentrated in vacuo to give a solid residue which is triturated with diethyl ether to give (5-nitro-indan-2-yl)-carbamic acid tert-butyl ester as a white solid.

reactant | 2-amino-5-nitro-indane hydrochloride | 95 mmol, 20.4 g | Cl.NC1CC2=CC=C(C=C2C1)[N+](=O)[O-]
reactant | diisopropylethyl amine | 114 mmol, 14.7 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-tert-butyldicarbonate | 105 mmol, 22.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | (5-nitro-indan-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CC2=CC=C(C=C2C1)[N+](=O)[O-])=O | C14H18N2O4
